US20010047031A1
To a −60° C. solution of oxalylchloride (0.21 ml, 2.42 mmol) in dry CH2Cl2 (4 ml) was added a solution of DMSO (0.34 ml, 4.84 mmol) in CH2Cl2 (2 ml). After 5 minutes stirring, a solution of 2,2-difluoro-4-phenyl-butan-1-ol (0.41 g, 2.2 mmol) in CH2Cl2 was added dropwise at −60° C. After 15 minutes stirring, triethylamine (1.54 ml, 11 mmol) was added dropwise, the reaction mixture was allowed to warm up to room temperature and H2O (10 ml) was added. The aqueous phase was extracted with CH2Cl2 (3×20 ml).The combined organic phases were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was dissolved in 1,2-dichloroethane (15 ml) and added to a suspension of (3S)-4-(pyrrolidin-3-ylsulfanyl)-phenol hydrobromide (0.68 g, 2.2 mmol), triethylamine (0.31 ml, 2.2 mmol) and sodium triacetoxyborohydride (0.74 g, 3.30 mmol) in 1,2-dichloroethane (45 ml). Mixture was stirred at 65° C. for 2 hours and overnight at room temperature. H2O (30 ml) was added. The aqueous phase was extracted with CH2Cl2 (3×20 ml).The combined organic phases were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed over silica gel (hexane-ethylacetate 99:1 to 90:10) to provide (3S)-4-[1-(2,2-difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol (0.55 g, 70%) as light yellow oil, MS: m/e=364.2(M+H+).

reactant | oxalylchloride | 2.42 mmol, 0.21 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 4.84 mmol, 0.34 ml | CS(=O)C | C2H6OS
reactant | 2,2-difluoro-4-phenyl-butan-1-ol | 2.2 mmol, 0.41 g | FC(CO)(CCC1=CC=CC=C1)F | C10H12F2O
reactant | triethylamine | 11 mmol, 1.54 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-4-(pyrrolidin-3-ylsulfanyl)-phenol hydrobromide | 2.2 mmol, 0.68 g | Br.N1C[C@H](CC1)SC1=CC=C(C=C1)O
reactant | triethylamine | 2.2 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 3.30 mmol, 0.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 45 ml | ClCCCl | C2H4Cl2
solvent | H2O | 30 ml | O | H2O
solvent | H2O | 10 ml | O | H2O
product | (3S)-4-[1-(2,2-difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol | 0.55 g, 70% | FC(CN1C[C@H](CC1)SC1=CC=C(C=C1)O)(CCC1=CC=CC=C1)F | C20H23F2NOS
